* Extracted by KLayout with GF180MCU LVS runset on : 03/08/2026 21:15

.SUBCKT programmable_pfet ena<1> VSS ena_bar<1> g ena<0> ena_bar<0>
X$3 g \$1 \$5 VSS ena_bar<1> ena<1> transmission_gate
X$10 g \$25 \$5 VSS ena_bar<0> ena<0> transmission_gate
M$1 \$5 ena<0> \$25 \$5 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P
+ PS=2.18U PD=2.18U
M$2 \$5 ena<1> \$1 \$5 pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$3 \$9 \$1 \$3 \$2 pfet_03v3 L=0.5U W=200U AS=91P AD=91P PS=303.64U PD=303.64U
M$7 \$3 g \$9 \$2 pfet_03v3 L=0.5U W=100U AS=65P AD=65P PS=202.6U PD=202.6U
M$8 \$3 \$25 \$9 \$2 pfet_03v3 L=0.5U W=100U AS=65P AD=65P PS=202.6U PD=202.6U
.ENDS programmable_pfet

.SUBCKT transmission_gate in out VDD VSS ena_bar ena
M$1 out ena_bar in VDD pfet_03v3 L=0.28U W=0.42U AS=0.2822P AD=0.2822P PS=2.18U
+ PD=2.18U
M$2 out ena in VSS nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U
+ PD=2.1U
.ENDS transmission_gate
